US09428509B2
4-((2-Chloro-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy)-1-methylcyclohexanol
To a degassed mixture of 4-((2-chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy)-1-methylcyclohexanol (1 equiv), 2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazole (1.2 equiv) and tripotassium phosphate trihydrate (3 equiv) in a 9:1 mixture of 1,4-dioxane and water (0.18 M) was added palladium 1,1-bis(diphenylphosphion)ferrocene dichloride (0.1 equiv). The reaction mixture was stirred at 70° C. for 3 h. After the reaction was completed, the reaction mixture was cooled to room temperature and concentrated. The residue was purified by silica gel chromatography (0-2% DCM in MeOH) to afford the title compound (95% yield) as a red oil. MS (ESI) m/z 543.2 [M+1]+.

reactant | 4-((2-chloro-5-iodo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy)-1-methylcyclohexanol | 1 equiv | ClC=1N=C(C2=C(N1)N(C=C2I)COCC[Si](C)(C)C)OC2CCC(CC2)(O)C | C19H29ClIN3O3Si
reactant | 2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzo[d]oxazole | 1.2 equiv | CC=1OC2=C(N1)C=CC(=C2)B2OC(C(O2)(C)C)(C)C | C14H18BNO3
reactant | tripotassium phosphate trihydrate | 3 equiv | O.O.O.P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | water | 0.18 M | O | H2O
product | 4-((2-Chloro-5-(2-methylbenzo[d]oxazol-6-yl)-7-((2-(trimethylsilyl)ethoxy)-methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)oxy)-1-methylcyclohexanol | 95% yield | ClC=1N=C(C2=C(N1)N(C=C2C2=CC1=C(N=C(O1)C)C=C2)COCC[Si](C)(C)C)OC2CCC(CC2)(O)C | C27H35ClN4O4Si
